US05616586
9-Bromo-5-(p-acetylaminophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (150 mg, 0.44 mmol) and p-acetylaminoaniline (75 mg, 0.5 mmol) to give 190 mg of the title compound (91%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.06 (s, 1H), 9.94 (s, 1H), 9.87 (s, 1H), 7.44~7.52 (m, 4H), 7.23 (bs, 1H), 7.17 (bs, 1H), 5.18~5.26 (m, 1H), 3.07 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.55~2.64 (m, 2H), 2.10 (dm, 1H, J=13.5 Hz), 2.02 (s, 3H), 1.80~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.44 mmol, 150 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | p-acetylaminoaniline | 0.5 mmol, 75 mg | C(C)(=O)NC1=CC=C(N)C=C1 | C8H10N2O
product | 9-Bromo-5-(p-acetylaminophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 190 mg, 91% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)NC(C)=O)=O | C21H19BrN4O4
